Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
seizure x2
 
Major Surgical or Invasive Procedure:
Whole brain radiation

 
History of Present Illness:
Patient is a ___ year old man with history of NSCLC (s/p RUL 
lobectomy ___, then with recurrence, s/p 1 cycle of chemo ___, 
now on hospice), prior head and neck cancer s/p XRT (___), 
alcohol use disorder, who presents from OSH after having two 
seizures.

Pt usually seeks care at ___. His oncologist 
is Dr ___. He was diagnosed with lung cancer stage IB s/p 
resection of RUL lobe ___ and followed intermittently. He 
represented in ___ with new recurrence in RUL. He was started 
on first cycle of chemotherapy which he poorly tolerated. Given 
his significant psychosocial difficulties (homelessness, alcohol 
use, poor follow up hx), and his poor overall prognosis, he was 
transitioned to hospice since ___. He has a MOLST form which 
is DNR/DNI/DNH. He has been following with staff from Care 
___ intermittneyl on the streets (usually at ___ 
Donuts) since last year. He was noted to have a seizure at 
coffee shop, pre report, although no witness to corroborate. He 
was brought to ___.

In CHA ED, he again another episode of seizure, with right sided 
focality before generalizing. He was given valium 5mg IV which 
broke his seizure. He was able to maintain his airway, however 
could not elicit a clear hx given incomprehensible garbled 
speech (likely due to post ictal phase). Head CT showed left 
frontal lesion with edema but no herniation/hydrocephalus, and a 
right cerebellar lesion. He was given keppra 500mg and 
dexamethasone 4mg. His GOC were reviewed with patient, and per 
report he was able to verbalize that he would want "treatment". 
His case was discussed with Dr ___ transferred to ___ 
for consideration of palliative radiation.

In ED, initial VS were: 97.9 72 102/65 16 99% RA 
ED labs were notable for normal CBC, lactate ___
MOLST with pt with DNR/DNI/DNH. On ED discussion with the 
patient he reported "yes" when asked if he would like to be 
hospitalized.
Transfer VS were: 98.2 77 105/66 14 96% RA 
When seen on the floor, he is unable to answer all my questions 
and reports he feels very bad. He is unable to specify any 
further despite telephone interpreter. He is unable to tell me 
what medications he takes
 
Past Medical History:
Lung cancer stage 1B disease s/p RUL lobectomy (___)
  ___: compared to CT of ___, new RLL module 9mm, RUL 
nodule reduced in size (5mm)
  ___: undifferentiated large cell RUL mass, with no nodes 
present with negative resection margins
   s/p C1 chemo ___ with poor tolerance

T1N1 tongue cancer s/p XRT ___, and two out of planned three 
doses of simultaneous high dose cisplatin
 
Social History:
___
Family History:
Reviewed and non-contributory to the current presentation
 
Physical Exam:
On Admission:
Gen: NAD, somnolent but arousable, oriented to self only, 
fatigued, lying in bed
 Eyes: EOMI, sclerae anicteric, sluggish pupils, no anisocoria  
 ENT: dry MM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___ to 
anterior auscultation, could not comply with posterior exam
 GI: soft, NT, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis. Intact 
pulses
 Skin: No visible rash. No jaundice.
 Neuro: AAOx1. No facial droop. Moving all 4 extremities grossly

On Discharge:
VITALS: 98.2 102/64 61 18 97% RA
GEN: sitting by the window, in NAD
HEENT: EOMI, sclerae anicteric, dry MM, OP clear 
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
DERM: No visible rash. No jaundice.
NEURO: Alert, oriented x3. Strength ___ in upper and lower
extremities bilaterally. CN II-XII testing notable for mild 
right
sided facial droop.
PSYCH: Euthymic
EXTREMITIES: WWP, no edema

 
Pertinent Results:
On Admission
___ 04:48PM   LACTATE-1.4
___ 04:34PM   GLUCOSE-145* UREA N-12 CREAT-0.7 SODIUM-137 
POTASSIUM-4.1 CHLORIDE-99 TOTAL CO2-25 ANION GAP-17
___ 04:34PM   estGFR-Using this
___ 04:34PM   ALT(SGPT)-<5 AST(SGOT)-14 ALK PHOS-73 TOT 
BILI-0.7
___ 04:34PM   ALBUMIN-3.6 CALCIUM-9.0 PHOSPHATE-2.6* 
MAGNESIUM-1.4*
___ 04:34PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:34PM   WBC-6.3 RBC-4.08* HGB-14.1 HCT-40.4 MCV-99* 
MCH-34.6* MCHC-34.9 RDW-14.0 RDWSD-51.5*
___ 04:34PM   NEUTS-88.6* LYMPHS-9.1* MONOS-1.6* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-5.57 AbsLymp-0.57* AbsMono-0.10* 
AbsEos-0.00* AbsBaso-0.01
___ 04:34PM   PLT COUNT-281

CT spine: No fracture or malalignment. Few indeterminate lucent 
lesions, which could be benign/incidental metgastses. Pulmonary 
apical nodules and severe emphysema

CT head:
1. Large left frontal lobe abnormality, suspicious for edema 
secondary to brain metastasis, or less likely inflammatory 
disease or primary tumor. (Infarct is unlikely given degree of 
relative cortical sparing)
2. Smaller similar new lesion in the left cerebellum

CT Head w/ contrast:
1. Left frontal and left cerebellar enhancing lesions with 
adjacent edema most likely represent metastases.  The 
differential diagnosis would include infection. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old man with history of NSCLC 
(s/p RUL lobectomy ___, then with recurrence, s/p 1 cycle of 
chemo ___, now on hospice), prior head and neck cancer s/p XRT 
(___), alcohol use disorder, who presents from OSH after having 
two seizures, likely due to new intracranial metastasis.

# Lung cancer, non small cell
# Intracranial metastasis
# Seizure
Pt presents with new seizures likely secondary to new brain 
lesions, likely metastatic from his known NSCLC which is active 
given his poor tolerance of chemotherapy. He had no gross focal 
neurological deficits on admission, though was 
somnolent/confused. He was started on steroids and keppra. He 
was evaluated by neurosurgery and was not a candidate for 
surgical intervention. He could not lie still for MRI, thus CT 
scan with contrast was obtained, which was notable for left 
frontal and left cerebellar lesions with edema, concerning for 
metastatic disease. He was evaluated by the radiation oncology 
team and was initiated on palliative whole brain radiation. He 
received ___ sessions while he was in-house. He was discharged 
to stay with his sister over the weekend with plan to return on 
___ for his last radiation treatment. He was discharged on 
dexamethasone and keppra. 
- Plan to continue keppra indefinitely at this time. He is 
scheduled for follow up with his oncologist for ongoing Rx 
management
- Plan to wean dexamethasone- he is discharged on 6mg BID with 
plan to continue wean at his follow up radiation appointment
- Patient to resume his hospice services 

# Community acquired pneumonia: OSH CXR concerning for pneumonia 
and patient presented with cough, though no significant 
leukocytosis. He completed a 5 day course of antibiotics.

# Alcohol abuse: Patient with long-standing history of alcohol 
abuse. Was initially placed on CIWA, but did not score.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FoLIC Acid 1 mg PO DAILY 
2. Senna 17.2 mg PO QHS:PRN Constipation 
3. Thiamine 100 mg PO DAILY 
4. Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H 
5. Ascorbic Acid ___ mg PO DAILY 
6. Ondansetron 8 mg PO Q8H:PRN Nausea 

 
Discharge Medications:
1.  Dexamethasone 6 mg PO Q12H 
Your dose will be tapered down at your next radiation treatment 
Tapered dose - DOWN 
RX *dexamethasone 6 mg 1 tablet(s) by mouth twice daily Disp 
#*20 Tablet Refills:*0 
2.  LevETIRAcetam 1000 mg PO Q12H 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*0 
3.  Ascorbic Acid ___ mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Ipratropium-Albuterol Inhalation Spray 1 INH IH Q6H  
6.  Ondansetron 8 mg PO Q8H:PRN Nausea 
RX *ondansetron 8 mg 1 tablet(s) by mouth every 8 hours Disp 
#*20 Tablet Refills:*0 
7.  Senna 17.2 mg PO QHS:PRN Constipation  
8.  Thiamine 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Seizure
Metastatic lung cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had a seizure. 
This was likely due to the cancer in your brain. You underwent 4 
out of 5 radiation treatments to your brain. You will be 
discharged home and you nephew will bring you to your last 
treatment on ___.

It was a pleasure to be a part of your care,
Your ___ treatment team
 
Followup Instructions:
___